US05652370
Dissolve oxalyl chloride (1.57 g, 12.4 mmol) in methylene chloride (17 mL), cool to -55° C. and place under a nitrogen atmosphere. Add, by dropwise addition, a solution of dimethylsulfoxide (1.77 g, 1.61 mL) in methylene chloride (4.5 mL). Stir for 15 minutes and add, by dropwise addition, a solution of 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-2,2-dimethylphenethyl alcohol (5.0 g, 10.3 mol) in methylene chloride (33 mL). Stir for 30 minutes and add, by dropwise addition, triethylamine (7.2 mL). Stir for 15 minutes and then allow to warm to -10° C. Add a solution of oxone (12.66 g) in deionized water (50 mL). Stir for 15 minutes and add methylene chloride (25 mL). Separate the organic phase, wash with brine, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (ethyl acetate) to give 4-[4-[4-(hydoxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetaldehyde.

reactant | oxalyl chloride | 12.4 mmol, 1.57 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1.61 mL, 1.77 g | CS(=O)C | C2H6OS
reactant | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-2,2-dimethylphenethyl alcohol | 10.3 mol, 5.0 g | OC(C1CCN(CC1)CCCC(=O)C1=CC(C(CCO)C=C1)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H41NO3
reactant | oxone | 12.66 g | OOS(=O)[O-].[K+]
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 33 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 7.2 mL | C(C)N(CC)CC | C6H15N
product | 4-[4-[4-(hydoxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetaldehyde | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C=O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37NO3
